US09193723B2
2-{[(imidazo[1,2-a]pyridin-7-ylmethyl)carbamoyl]amino}-N-(3-methylbutyl)-1,3-thiazole-5-carboxamide
The title compound was prepared as described in Example 1A, substituting 3-methylbutan-1-amine for 3-methylbutan-1-amine and 2-(3-(imidazo[1,2-a]pyridin-7-ylmethyl)ureido)thiazole-5-carboxylic acid for 4-nitrobenzoic acid. 1H NMR (300 MHz, DMSO-d6) ppm 8.49 (d, J=7.8 Hz, 1H), 8.21 (t, J=5.9 Hz, 1H), 7.88-7.89 (m, J=1.4 Hz, 1H), 7.87 (s, 1H), 7.52 (d, J=1.4 Hz, 1H), 7.39 (s, 1H), 7.18 (t, J=5.8 Hz, 1H), 6.83 (dd, J=6.8, 1.7 Hz, 1H), 4.38 (d, J=6.1 Hz, 2H), 3.16-3.25 (m, 2H), 1.52-1.67 (m, 1H), 1.38 (q, J=6.9 Hz, 2H), 0.83-0.91 (m, 7H); MS (ESI(+)) m/e 387 (M+H)+.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 2-(3-(imidazo[1,2-a]pyridin-7-ylmethyl)ureido)thiazole-5-carboxylic acid | N=1C=CN2C1C=C(C=C2)CNC(NC=2SC(=CN2)C(=O)O)=O | C13H11N5O3S
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 2-{[(imidazo[1,2-a]pyridin-7-ylmethyl)carbamoyl]amino}-N-(3-methylbutyl)-1,3-thiazole-5-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)NC=2SC(=CN2)C(=O)NCCC(C)C | C18H22N6O2S
